US04458010
150 g (0.51M) of 1-(3-hexanamidophenyl)-5-mercaptotetrazole was dispersed in 450 ml of ethanol, and 300 ml of concentrated hydrochloric acid was added thereto with stirring at room temperature. After the reaction was carried out at room temperature for 3 hours, the mixture was cooled with ice, and the precipitated crystals were separated by filtration and washed with acetone to obtain 110 g of 1-(3-aminophenyl)-5-mercaptotetrazole hydrochloride. The resulting amine hydrochloride was dispersed in 750 ml of acetonitrile. After adding 485 ml of triethylamine, 125 g of butyl isocyanate was added dropwise at room temperature. After the reaction was carried out at room temperature for 6 hours, 2.2 liters of water were added and the pH was adjusted to 2 with hydrochloric acid. The precipitated crystals were separated by filtration and recrystallized from ethanol to obtain 69 g (yield: 46%) of the desired product having a melting point of 171°-172° C. (decomposition).

reactant | 1-(3-hexanamidophenyl)-5-mercaptotetrazole | 0.51M, 150 g | C(CCCCC)(=O)NC=1C=C(C=CC1)N1N=NN=C1S | C13H17N5OS
reactant | hydrochloric acid | 300 ml | Cl | ClH
solvent | ethanol | 450 ml | C(C)O | C2H6O
product | 1-(3-aminophenyl)-5-mercaptotetrazole hydrochloride | 110 g | Cl.NC=1C=C(C=CC1)N1N=NN=C1S | InChI=1S/C7H7N5S.ClH/c8-5-2-1-3-6(4-5)12-7(13)9-10-11-12;/h1-4H,8H2,(H,9,11,13);1H
